US07173023B2
(RS)-2-[7-(3-Fluoro-benzyloxy)-1,2,4,5-tetrahydro-benzo[d]azepin-3-yl]-propionamide
The title compound was prepared in analogy to Example 10 from 7-(3-fluoro-benzyloxy)-2,3,4,5-tetrahydro-1H-benzo[d]azepine hydrochloride [Example 1c)] and (RS)-2-bromo-propionamide with potassium carbonate as the base. Yield: 85% of theory as a white solid; MS: m/e=343 (M+H)+.

reactant | 7-(3-fluoro-benzyloxy)-2,3,4,5-tetrahydro-1H-benzo[d]azepine hydrochloride | Cl.FC=1C=C(COC2=CC3=C(CCNCC3)C=C2)C=CC1
reactant | (RS)-2-bromo-propionamide | BrC(C(=O)N)C | C3H6BrNO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | (RS)-2-[7-(3-Fluoro-benzyloxy)-1,2,4,5-tetrahydro-benzo[d]azepin-3-yl]-propionamide | Yield: 85% | FC=1C=C(COC2=CC3=C(CCN(CC3)C(C(=O)N)C)C=C2)C=CC1 | C20H23FN2O2
